US07572809B2
Similar procedure as described in example 273 was used, starting (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-butoxy-phenylamine to give N1-(4-butoxy-phenyl)-N3-(1H-pyrazol-3-yl)-isoquinoline-1,3-diamine. LC-MS m/e 374(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | 4-butoxy-phenylamine | C(CCC)OC1=CC=C(C=C1)N | C10H15NO
product | N1-(4-butoxy-phenyl)-N3-(1H-pyrazol-3-yl)-isoquinoline-1,3-diamine | C(CCC)OC1=CC=C(C=C1)NC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C22H23N5O
